US09193720B2
To stirred yellow solution of ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate (2.25 g, 5.66 mmol) and (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole (0.314 g, 1.133 mmol) in toluene (30 mL) at −35° C. was added drop wise 50% catecholborane (1.819 ml, 8.49 mmol) over 10 min. The reaction mixture was slowly warmed to −15° C. over 1 h and then left for 2 h at −15° C. Then, diluted with EtOAc (100 mL), washed with sat Na2CO3 (4×25 mL) by vigorously stirring and separating aqueous layers. The organic layer dried (MgSO4), filtered, concentrated and purified by flash chromatography using 10, 20 and 25% EtOAc/Hex to afford desired (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate (2.2596 g, 5.66 mmol, 100% yield) contaminated with about 10% of (S)-ethyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate. Used in the next step without further purification. 1H NMR (500 MHz, CDCl3) δ 5.71 (d, J=7.3 Hz, 1H), 5.54 (d, J=7.4 Hz, 1H), 4.29 (dq, J=10.8, 7.1 Hz, 1H), 4.16 (dq, J=10.8, 7.1 Hz, 1H), 3.94-3.83 (m, 2H), 2.71 (d, J=11.9 Hz, 1H), 2.67 (s, 3H), 2.59 (s, 3H), 2.54 (d, J=12.0 Hz, 1H), 1.71 (td, J=12.7, 4.7 Hz, 1H), 1.62 (td, J=13.0, 4.7 Hz, 1H), 1.42 (dd, J=13.1, 2.2 Hz, 1H), 1.37 (dd, J=12.9, 2.4 Hz, 1H), 1.25 (t, J=7.1 Hz, 3H), 1.09 (s, 3H), 1.04 (s, 3H). LCMS (M+H)=401.3.

reactant | ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 5.66 mmol, 2.25 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OCC)=O)N1CCC(CC1)(C)C | C18H25BrN2O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 1.133 mmol, 0.314 g | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | catecholborane | 8.49 mmol, 1.819 ml | [B]1OC2=CC=CC=C2O1 | C6H4BO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 5.66 mmol, 2.2596 g, 100% yield | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)O)N1CCC(CC1)(C)C | C18H27BrN2O3
